US04482558
Preparation of 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)-oxirane
Sodium hydride (3.78 g, 0.079 mole as 50% dispersion in oil) was suspended, with stirring, in 20 ml of dry diethyl ether. The ether was then removed by decantation, and the sodium hydride was dried in a stream of dry nitrogen. 100 ml of dry dimethylsulphoxide was added followed by 17.34 (0.079 mole) of dry powdered trimethylsulphoxonium iodide, in portions, over 15 minutes. The resulting mixture was stirred for 30 minutes at room temperature (20° C.). 2-(1H-1,2,4-Triazol-1-yl)-2',4'-dichloro acetophenone (18.33 g, 0.072 mole) as a solution in 50 ml of dry dimethylsulphoxide was then added. The mixture was heated at 60° C. for 3 hours and allowed to stand at room temperature overnight. The reaction mixture was cooled and quenched in ice. The product was then extracted into ethyl acetate (600 ml). The ethyl acetate layer was separated, dried over magnesium sulphate, and concentrated to give a red gum. Column chromatography of the gum on silica, eluting with ether, gave 6.62 g (34.4%) of the title compound as a gum.

reactant | Sodium hydride | 0.079 mole, 3.78 g | [H-].[Na+]
reactant | trimethylsulphoxonium iodide | [I-].C[S+](=O)(C)C
reactant | 2-(1H-1,2,4-Triazol-1-yl)-2',4'-dichloro acetophenone | 0.072 mole, 18.33 g | N1(N=CN=C1)CC(=O)C1=C(C=C(C=C1)Cl)Cl | C10H7Cl2N3O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)-oxirane | 6.62 g, 34.4% | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1 | C11H9Cl2N3O
